US20010044454A1
To a solution of 3-hydroxypiperidine hydrochloride (827 mg, 6 mmol) in dioxane (12 ml) and water (6 ml) cooled to 0° C. is added 1 N NaOH (12 ml, 12 mmol) and dit-butyl carbonate (827 mg, 6 mmol) in dioxane (35 ml) and the reaction mixture is stirred at 25° C. for 1 hr. The reaction mixture is diluted with ethyl acetate, washed with aqueous sodium bicarbonate, 1 N KHSO4, water and brine, dried over sodium sulfate and concentrated in vacuo. The crude product is purified by flash chromatography (silica gel, 50% ethyl acetate in hexane) to give N-t-butoxycarbonyl-3-hydroxypiperidine (1.07 g).

reactant | 3-hydroxypiperidine hydrochloride | 6 mmol, 827 mg | Cl.OC1CNCCC1
reactant | NaOH | 12 mmol, 1 N, 12 ml | [OH-].[Na+]
reactant | dit-butyl carbonate | 6 mmol, 827 mg | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | water | 6 ml | O | H2O
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-t-butoxycarbonyl-3-hydroxypiperidine | 1.07 g | C(C)(C)(C)OC(=O)N1CC(CCC1)O | C10H19NO3
